US04200641
A mixture of 3.65 parts of 1-(6-chlorohexyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 2.9 parts of 1-[bis(4-fluorophenyl)methyl]piperazine, 2.65 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is stirred for 30 minutes with a solution of 12 parts of a concentrated hydrochloric acid solution in 40 parts of ethanol. The solvent is evaporated and the residue is dissolved in water. The free base is liberated in the conventional manner with ammonium hydroxide and extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in ethanol and 2-propanol. The salt is filtered off and dried, yielding 1-[6-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}hexyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride; mp. 204.5° C.

reactant | 1-(6-chlorohexyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C16H21ClN2O
reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[6-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}hexyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)CCCCCCN1C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)F | InChI=1S/C30H34F2N4O.2ClH/c31-25-13-9-23(10-14-25)29(24-11-15-26(32)16-12-24)35-21-19-34(20-22-35)17-5-1-2-6-18-36-28-8-4-3-7-27(28)33-30(36)37;;/h3-4,7-16,29H,1-2,5-6,17-22H2,(H,33,37);2*1H
